US09382241B2
1-(3-(4-aminoquinazolin-6-yl)phenyl)-3-cyclopentylurea
To a 4 mL screw-cap vial was added 6-(3-aminophenyl)quinazolin-4-amine (35 mg; 0.15 mmol) followed by dimethylformamide (0.5 mL) and isocyanatocyclopentane (1.1 equiv., 0.16 mmol, 18 mg). The reaction was stirred at room temperature overnight. The following morning the crude reaction mix was directly purified by reverse phase HPLC, yielding 19 mg of desired product. 1H NMR (400 MHz, DMSO) δ 8.51-8.45 (d, J=1.8 Hz, 1H), 8.45-8.40 (s, 1H), 8.40-8.37 (s, 1H), 8.03-7.95 (dd, J=8.7, 1.9 Hz, 1H), 7.95-7.76 (s, 2H), 7.76-7.70 (d, J=8.7 Hz, 1H), 7.43-7.28 (m, 3H), 6.33-6.20 (d, J=7.2 Hz, 1H), 4.04-3.90 (dd, J=13.4, 6.7 Hz, 1H), 1.93-1.80 (m, 2H), 1.74-1.46 (m, 4H), 1.46-1.32 (m, 2H). LCMS M/Z (M+H)=348.

reactant | 6-(3-aminophenyl)quinazolin-4-amine | 0.15 mmol, 35 mg | NC=1C=C(C=CC1)C=1C=C2C(=NC=NC2=CC1)N | C14H12N4
reactant | isocyanatocyclopentane | 0.16 mmol, 18 mg, 1.1 equiv. | N(=C=O)C1CCCC1 | C6H9NO
solvent | dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
product | 1-(3-(4-aminoquinazolin-6-yl)phenyl)-3-cyclopentylurea | 19 mg | NC1=NC=NC2=CC=C(C=C12)C=1C=C(C=CC1)NC(=O)NC1CCCC1 | C20H21N5O
